* Subcircuit SSN54LS293_SUB
.subckt SSN54LS293_SUB unconnected-_u1-pad1_ unconnected-_u1-pad2_ unconnected-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ unconnected-_u1-pad6_ unconnected-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ 
.title kicad schematic
* u6 net-_u1-pad14_ net-_u1-pad14_ net-_u2-pad2_ unconnected-_u6-pad4_ net-_u5-pad2_ net-_u1-pad9_ unconnected-_u6-pad7_ d_jkff
* u5 net-_u11-pad1_ net-_u5-pad2_ d_inverter
* u2 net-_u1-pad10_ net-_u2-pad2_ d_inverter
* u3 net-_u1-pad11_ net-_u3-pad2_ d_inverter
* u7 net-_u1-pad14_ net-_u1-pad14_ net-_u3-pad2_ unconnected-_u7-pad4_ net-_u4-pad2_ net-_u1-pad5_ unconnected-_u7-pad7_ d_jkff
* u4 net-_u11-pad1_ net-_u4-pad2_ d_inverter
* u8 net-_u1-pad12_ net-_u1-pad13_ net-_u11-pad1_ d_nand
* u13 net-_u1-pad14_ net-_u1-pad14_ net-_u13-pad3_ unconnected-_u13-pad4_ net-_u11-pad2_ net-_u1-pad4_ unconnected-_u13-pad7_ d_jkff
* u9 net-_u1-pad5_ net-_u13-pad3_ d_inverter
* u11 net-_u11-pad1_ net-_u11-pad2_ d_inverter
* u12 net-_u11-pad1_ net-_u12-pad2_ d_inverter
* u10 net-_u1-pad4_ net-_u10-pad2_ d_inverter
* u14 net-_u1-pad14_ net-_u1-pad14_ net-_u10-pad2_ unconnected-_u14-pad4_ net-_u12-pad2_ net-_u1-pad8_ unconnected-_u14-pad7_ d_jkff
a1 net-_u1-pad14_ net-_u1-pad14_ net-_u2-pad2_ unconnected-_u6-pad4_ net-_u5-pad2_ net-_u1-pad9_ unconnected-_u6-pad7_ u6
a2 net-_u11-pad1_ net-_u5-pad2_ u5
a3 net-_u1-pad10_ net-_u2-pad2_ u2
a4 net-_u1-pad11_ net-_u3-pad2_ u3
a5 net-_u1-pad14_ net-_u1-pad14_ net-_u3-pad2_ unconnected-_u7-pad4_ net-_u4-pad2_ net-_u1-pad5_ unconnected-_u7-pad7_ u7
a6 net-_u11-pad1_ net-_u4-pad2_ u4
a7 [net-_u1-pad12_ net-_u1-pad13_ ] net-_u11-pad1_ u8
a8 net-_u1-pad14_ net-_u1-pad14_ net-_u13-pad3_ unconnected-_u13-pad4_ net-_u11-pad2_ net-_u1-pad4_ unconnected-_u13-pad7_ u13
a9 net-_u1-pad5_ net-_u13-pad3_ u9
a10 net-_u11-pad1_ net-_u11-pad2_ u11
a11 net-_u11-pad1_ net-_u12-pad2_ u12
a12 net-_u1-pad4_ net-_u10-pad2_ u10
a13 net-_u1-pad14_ net-_u1-pad14_ net-_u10-pad2_ unconnected-_u14-pad4_ net-_u12-pad2_ net-_u1-pad8_ unconnected-_u14-pad7_ u14
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u6 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u2 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u7 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_nand, Ngspice Name: d_nand
.model u8 d_nand(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u13 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_jkff, Ngspice Name: d_jkff
.model u14 d_jkff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 jk_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 )
* Control Statements

.ends SSN54LS293_SUB