.title kicad schematic

.include SSN54LS293_SUB.sub
x1 unconnected-_x1-pad1_ unconnected-_x1-pad2_ unconnected-_x1-pad3_ net-_u16-pad3_ net-_u16-pad2_ unconnected-_x1-pad6_ net-_u2-pad6_ net-_u16-pad4_ net-_x1-pad11_ net-_u2-pad5_ net-_x1-pad11_ unconnected-_x1-pad12_ unconnected-_x1-pad13_ net-_u2-pad4_ SSN54LS293_SUB
* u16 net-_x1-pad11_ net-_u16-pad2_ net-_u16-pad3_ net-_u16-pad4_ a b c d dac_bridge_4
r1 d gnd 1k
* u2 net-_u2-pad1_ pulse gnd net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ adc_bridge_3
* u1 pulse plot_v1
v1 net-_u2-pad1_ gnd  dc 5v
v2 pulse gnd pulse(0v 5v 0 1ps 1ps 100ms 200ms)
r2 c gnd 1k
* u19 b plot_v1
* u18 c plot_v1
* u17 d plot_v1
r3 b gnd 1k
* u20 a plot_v1
r4 a gnd 1k
a1 [net-_x1-pad11_ net-_u16-pad2_ net-_u16-pad3_ net-_u16-pad4_ ] [a b c d ] u16
a2 [net-_u2-pad1_ pulse gnd ] [net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ ] u2
* Schematic Name:                             dac_bridge_4, Ngspice Name: dac_bridge
.model u16 dac_bridge(out_low=0v out_high=5v out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_3, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=0v in_high=5v rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 1e-03 3000e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(pulse)
plot v(b)
plot v(c)
plot v(d)
plot v(a)
.endc
.end
